US08648068B2
II.2: (R)-tert-butyl 3-(2-amino-5-fluorophenoxy)piperidine-1-carboxylate
Amoniumformiate (1.0 g) was added into a suspension of (R)-tert-butyl 3-(5-fluoro-2-nitrophenoxy)piperidine-1-carboxylate and palladium on charcoal (125.0 mg) in anhydrous MeOH (10.0 ml) at room temperature. The reaction was stirred at room temperature overnight when LCMS analysis indicated consumption of the starting material. The solution was filtered through celite and washed with MeOH. The filtrate was concentrated in vacuo. The residue was triturated with diethylether to remove the ammoniumformiate residues. The solution was filtered and concentrated in vacuo. The residue was purified by chromatography.

reactant | Amoniumformiate | 1.0 g | C(=O)[O-].[NH4+]
reactant | (R)-tert-butyl 3-(5-fluoro-2-nitrophenoxy)piperidine-1-carboxylate | FC=1C=CC(=C(O[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C1)[N+](=O)[O-] | C16H21FN2O5
catalyst | palladium on charcoal | 125.0 mg | [Pd] | Pd
solvent | MeOH | 10.0 ml | CO | CH4O
product | (R)-tert-butyl 3-(2-amino-5-fluorophenoxy)piperidine-1-carboxylate | NC1=C(O[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C(C=C1)F | C16H23FN2O3
